US05416236
Synthesis of ethyl 4-chloro-5-methylsulfonylamino-2-fluorocarbanilate
80.6 g (292 mmol) of ethyl 5-methylsulfonylamino-2-fluorocarbanilate was dissolved in a mixture of 1075 ml of acetic acid and 100 ml of water, and chlorine gas was added to the resultant solution at a temperature of not higher than 25° C. until the starting material disappeared. After the reaction was completed, the surplus chlorine gas was removed by blowing nitrogen gas thereinto, and hexane was added. The precipitates crystals were filtered out to obtain 81.4 g of the objective product (yield: 90%) in the form of yellow crystals.

reactant | ethyl 5-methylsulfonylamino-2-fluorocarbanilate | 292 mmol, 80.6 g | CS(=O)(=O)NC=1C=CC(=C(NC(OCC)=O)C1)F | C10H13FN2O4S
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 1075 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | ethyl 4-chloro-5-methylsulfonylamino-2-fluorocarbanilate | 81.4 g, yield: 90% | ClC1=CC(=C(NC(OCC)=O)C=C1NS(=O)(=O)C)F | C10H12ClFN2O4S
